US07932271B2
N-[5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]propane-1,3-diamine dihydrochloride
To t-butyl 3-[[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]propylcarbamate (70 mg, 0.13 mmol) was added a 20% hydrochloric acid-methanol solution (2 ml). The resulting mixture was stirred for 2 hours. The residue obtained by concentrating the reaction mixture under reduced pressure was crystallized from ethanol to give the title compound as a white solid (42 mg, 83%).

reactant | t-butyl 3-[[5-chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]propylcarbamate | 0.13 mmol, 70 mg | ClC=1C(=CC(=NC1)NCCCNC(OC(C)(C)C)=O)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C26H27Cl2F2N3O4S
reactant | hydrochloric acid methanol | 2 ml | Cl.CO
product | N-[5-Chloro-4-[(4-chlorophenylsulfonyl)-(2,5-difluorophenyl)methyl]pyridin-2-yl]propane-1,3-diamine dihydrochloride | 42 mg, 83% | Cl.Cl.ClC=1C(=CC(=NC1)NCCCN)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | InChI=1S/C21H19Cl2F2N3O2S.2ClH/c22-13-2-5-15(6-3-13)31(29,30)21(17-10-14(24)4-7-19(17)25)16-11-20(27-9-1-8-26)28-12-18(16)23;;/h2-7,10-12,21H,1,8-9,26H2,(H,27,28);2*1H
